US06858651B2
In analogy to example 11.11, trans-N-(4-Hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide and 1,3-dibrompropane were converted to yield trans-N-[4-(3-Bromo-propoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide as off-white semisolid, MS: 320 [M−C3H6BrO].

reactant | trans-N-(4-Hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | O[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C14H18F3NO3S
reactant | 1,3-dibrompropane | BrCCCBr | C3H6Br2
product | trans-N-[4-(3-Bromo-propoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | BrCCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C17H23BrF3NO3S
